US06891066B2
The product of Example 11, 3,4-Difluoro-2-[2-fluoro-4-(4-hydroxy-1-butynyl)anilino]-N-(2-hydroxyethoxy)-benzamide was hydrogenated in absolute EtOH in the presence of 5% Pd/C by the procedure of Example 1, Step D. Purification of the resulting oil was carried out by filtration through a plug of silica gel (EtOAc as eluant) to afford 3,4-difluoro-2-[2-fluoro-4-(4-hydroxybutyl)anilino]-N-(2-hydroxyethoxy)benzamide as a white crystalline solid (46%); m.p. (Et2O/EtOAc) 65-69° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.90 (br s, 1 H), 8.83 (br s, 1 H), 7.44-7.38 (m, 1 H), 7.13-7.07 (m, 1 H), 7.03 (dd, J=12.5, 1.6 Hz, 1 H), 6.88 (dd, J=8.2, 1.7 Hz, 1 H), 6.82 (ddd, J=8.7, 8.7, 4.3 Hz, 1 H), 4.76 (v br s, 1 H), 4.35 (t, J=5.2 Hz, 1 H), 3.84 (t, J=4.8 Hz, 2 H), 3.56 (t, J=4.9 Hz, 2 H), 3.43-3.34 (m, 2 H), 2.55-2.47 (m, 2 H), 1.61-1.51 (m, 2 H), 1.46-1.37 (m, 2 H). Anal. calcd. for C19H21F3N2O4: C, 57.3; H, 5.3; N, 7.0. Found C, 57.4; H, 5.4; N, 6.9.

reactant | 3,4-Difluoro-2-[2-fluoro-4-(4-hydroxy-1-butynyl)anilino]-N-(2-hydroxyethoxy)-benzamide | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)C#CCCO)F | C19H17F3N2O4
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 3,4-difluoro-2-[2-fluoro-4-(4-hydroxybutyl)anilino]-N-(2-hydroxyethoxy)benzamide | 46% | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)CCCCO)F | C19H21F3N2O4
